US06828116B1
i) 1-Butyl-5-nitro-2,3,3-trimethylindolium Iodide
5-Nitro-2,3,3-trimethylindole (250 mg, 1.22 mmol) and iodobutane (10 ml, 16.17 g, 87.87 mmol) were mixed and heated to reflux for 16hrs. The solvent was removed and the impure material stored at−20° C. for use in later reactions.

reactant | 5-Nitro-2,3,3-trimethylindole | 1.22 mmol, 250 mg | [N+](=O)([O-])C=1C=C2C(C(=NC2=CC1)C)(C)C | C11H12N2O2
reactant | iodobutane | 87.87 mmol, 10 ml, 16.17 g | ICCCC | C4H9I
product | 1-Butyl-5-nitro-2,3,3-trimethylindolium Iodide | [I-].C(CCC)[N+]1=C(C(C2=CC(=CC=C12)[N+](=O)[O-])(C)C)C | InChI=1S/C15H21N2O2.HI/c1-5-6-9-16-11(2)15(3,4)13-10-12(17(18)19)7-8-14(13)16;/h7-8,10H,5-6,9H2,1-4H3;1H/q+1;/p-1
